US05817678
Step F: Preparation of 2-(3-Chlorophenyl)-2-phenyl oxirane
A 250 mL-round bottom flask was charged with NaH (60% dispersion in mineral oil) (1.92 g, 0.048 mol), washed with petroleum ether, then treated with dry DMSO (40 mL) under N2. To this reaction mixture was added trimethylsulfoxonium iodide (10.56 g, 0.048 mol) through a solid addition funnel over 15 min. After stirring for 0.5 hr, a solution of 3-chlorobenzophenone (8.66 g, 0.04 mol) in DMSO (15 mL) was added dropwise, and the mixture was heated at 55° C. for 2 hr. The mixture was added to ice-water, extracted with ether (3×100 mL), the organics combined, dried (MgSO4), filtered, and concentrated to give the title compound.

reactant | NaH | 0.048 mol, 1.92 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 0.048 mol, 10.56 g | [I-].C[S+](=O)(C)C
reactant | 3-chlorobenzophenone | 0.04 mol, 8.66 g | ClC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H9ClO
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 2-(3-Chlorophenyl)-2-phenyl oxirane | ClC=1C=C(C=CC1)C1(OC1)C1=CC=CC=C1 | C14H11ClO
